US07214828B2
416 g of (5 or 6)-formyl-2-methylbicyclo[2.2.1]heptane-2-carbonitrile (2.55 mol) was dissolved in 200 g THF (tetrahydrofuran), 20 g catalyst, 5% Ru on carbon (Aldrich), was added, and the whole reaction mixture was charged into a 1 L autoclave. The autoclave was heated to 90° C. and pressurized with 1000 psig H2 gas for 12 h while the progress of the reaction was periodically monitored by GC analysis. After venting the reactor, cooling to room temperature, and rinsing with THF, the reaction mixture was filtered though a plug of celite under nitrogen. Solvent was removed from the reaction mixture by rotary evaporation, and the residual oil (388 g) was distilled in vacuo to yield 275 g (1.66 mol) of (5 or 6)-(hydroxymethyl)-2-methylbicyclo[2.2.1]heptane-2-carbonitrile as colorless liquid (65% isolated yield). Boiling point: 93.3° C. at 80 mTorr. The product was pure by GC/MS analysis.

reactant | formyl-2-methylbicyclo[2.2.1]heptane-2-carbonitrile | 2.55 mol | C(=O)C12C(CC(CC1)C2)(C#N)C | C10H13NO
solvent | THF | 200 g | O1CCCC1 | C4H8O
catalyst | Ru on carbon | [Ru] | Ru
product | (hydroxymethyl)-2-methylbicyclo[2.2.1]heptane-2-carbonitrile | OCC12C(CC(CC1)C2)(C#N)C | C10H15NO
